US09216999B2
4-(7H-Pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexanol
1-{4-[(tert-Butyldimethylsilyl)oxy]cyclohexyl}-7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidine (500 mg, 1.35 mmol) in a mixture of dichloromethane (5 mL) and methanol (5 mL) was stirred with pyridinium p-toluenesulfonate (338 mg, 1.35 mmol) at 60° C. for 3 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1→1/1 (v/v)-ethyl acetate) to give the title compound as a colorless solid (259 mg, yield 75%).

reactant | 1-{4-[(tert-Butyldimethylsilyl)oxy]cyclohexyl}-7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidine | 1.35 mmol, 500 mg | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)C=1N=NN2C=NC3=C(C21)C=CN3 | C19H29N5OSi
reactant | pyridinium p-toluenesulfonate | 1.35 mmol, 338 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | methanol | 5 mL | CO | CH4O
product | 4-(7H-Pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexanol | 259 mg, yield 75% | C=1(N=NN2C=NC3=C(C21)C=CN3)C3CCC(CC3)O | C13H15N5O
